US07417047B2
Step d) Preparation of 1-Ethyl-4-(3-methoxy-phenylethynyl)-1H-pyrrole-2-carboxylic acid ethyl ester:
Argon was gently bubbled to a mixture of ethyl-4-iodo-1H-pyrrole-2-carboxylic acid ethyl ester (4.1 g, 14 mmol), CuI (0.14 g, 0.76 mmol), Et3N (40 ml, 287 mmol) and tetrakis(triphenylphosphosphine)palladium (0) (0.64 g, 0.554 mmol) in ACN (20 mL) over 5 minutes. A prepared solution of 1-ethynyl-3-methoxy-benzene (2.03 g, 15.4 mmol) in ACN (5 mL) was added into it and the new mixture was reflux under Nitrogen for 3 hours. The resulting brown colored reaction mixture was cooled to room temperature and concentrated in vacuo. The concentrate was diluted with water and extracted with ether. The combined ether extracts were washed with saturated aqueous solution of NH4Cl, brine, dried (MgSO4) and filtered. Evaporation and purification by flash chromatography on silica gel (Hexane/EtOAc 9.7/0.3) gave the title compound as a yellow brownish oil (3.6 g, 84% yield), 1H NMR (400 MHZ, CDCl3) δ 1.31-1.34 (t, 3H), 1.38-1.40 (t, 3H), 3.78 (s, 3H), 4.25-4.27 (q, 2H), 4.30-4.33 (q, 2H), 6.83 (m, 1H), 6.89 (m, 1H), 7.06 (m, 3H), 7.19 (m, 1H), MS m/e (M+H)+ 298.1.

reactant | ethyl-4-iodo-1H-pyrrole-2-carboxylic acid ethyl ester | 14 mmol, 4.1 g | C(C)OC(=O)C=1N(C=C(C1)I)CC | C9H12INO2
reactant | Et3N | 287 mmol, 40 ml | CCN(CC)CC | C6H15N
reactant | 1-ethynyl-3-methoxy-benzene | 15.4 mmol, 2.03 g | C(#C)C1=CC(=CC=C1)OC | C9H8O
solvent | ACN | 20 mL | C(C)#N | C2H3N
solvent | ACN | 5 mL | C(C)#N | C2H3N
catalyst | CuI | 0.76 mmol, 0.14 g | [Cu]I
product | 1-Ethyl-4-(3-methoxy-phenylethynyl)-1H-pyrrole-2-carboxylic acid ethyl ester | 3.6 g, 84% yield | C(C)OC(=O)C=1N(C=C(C1)C#CC1=CC(=CC=C1)OC)CC | C18H19NO3
